*   BF992 SPICE MODEL JANUARY 1996 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF992 1 2 3 4
        L10          1 10   0.12N
        L20          2 20   0.12N
        L30          3 30   0.12N
        L40          4 40   0.12N
        L11         10 11   1.20N
        L21         20 21   1.20N
        L31         30 31   1.20N
        L41         40 41   1.20N
        C13         10 30   0.085P
        C14         10 40   0.085P
        C21         10 20   0.017P
        C23         20 30   0.085P
        C24         20 40   0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   100
        MOS1        61 41 11 12 GATE1 L=2E-6 W=2200E-6
        MOS2        21 31 61 12 GATE2 L=3.0E-6 W=2200E-6

.MODEL  ZENER  D  (BV=10 CJO=1.2E-12  RS=10)

.MODEL  GATE1
+  NMOS (LEVEL=3 UO=904.9  VTO=-0.2051 NFS=300E9 TOX=60E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=500E-9 THETA=0.11
+  ETA=0.2095 KAPPA=0.6488 LD=0.3E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12)

.MODEL  GATE2
+  NMOS (LEVEL=3 UO=600  VTO=-0.2051 NFS=300E9 TOX=60E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=500E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.3E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.467E-12 CBS=0.5E-12)

.ENDS BF992